Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
menometrorrhagia
 
Major Surgical or Invasive Procedure:
Uterine Artery Embolization - ___

 
History of Present Illness:
___ with menometrorrhagia and severe/worsening premenstrual
symptoms, uterine fibroids who presents post-UAE for pain
management. She underwent a planned, uncomplicated UAE with
moderate sedation on ___ via right CFA approach.  She
tolerated the procedure well, but had significant post-procedure
pain.  Started on Dilaudid PCA with 0.24mg q6 minutes PRN with 
no
basal rate and max dosing 2.4mg/hr. 

Upon arrival to the floor, the patient reports mild-moderate
crampy pain, but feels it is adequately controlled with PCA and
hot packs. Has had a few spots of blood since procedure, but
reports that she was spotting pre-procedure, and that this seems
no different. No nausea/vomiting, urinary symptoms, constipation
(last BM last night). Does report some facial pruritis since the
procedure, which responded well to one dose of benadryl but has
since returned. 

 
Past Medical History:
Fibroids
Anxiety
Depression
Anal Fissure
 
Social History:
___
Family History:
Mother - CAD/PVD at ___
Father - MI in his mid-___
Sister - hypercoagulation ___
M grandmother - CAD/PVD
M grandfather - heart disease at age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 97.8, BP 126 / 69, HR 71, RR 18, SpO2 99/RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: RRR, S1+S2, no M/R/G
LUNGS: CTAB, no W/R/C
ABDOMEN: mildly distended, soft, TTP to light palpation in lower
abdomen/pelvis (equal bilaterally), no rebound or guarding
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: moving all 4 extremities with purpose, ambulatory

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 
24 HR Data (last updated ___ @ 1140)
    Temp: 97.8 (Tm 99.5), BP: 128/83 (102-131/55-83), HR: 83 
(67-83), RR: 16 (___), O2 sat: 99% (96-100), Wt: 151 lb/68.49 
kg 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. Sclera anicteric and without injection. MMM.
CARDIAC: RRR, S1+S2, no M/R/G
LUNGS: CTAB, no W/R/C
ABDOMEN: mildly distended, soft, TTP over bilateral lower 
abdomen
EXTREMITIES: No clubbing, cyanosis, or edema. Groin access site 
well healed without bleeding or underlying hematoma, soft to 
palpation.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: moving all 4 extremities with purpose, ambulatory

 
Pertinent Results:
LABS:
==========
___ 07:56AM BLOOD WBC-4.8 RBC-4.23 Hgb-13.4 Hct-39.9 MCV-94 
MCH-31.7 MCHC-33.6 RDW-12.2 RDWSD-42.3 Plt ___
___ 07:56AM BLOOD ___
___ 07:56AM BLOOD Creat-0.8
___ 08:15AM BLOOD Calcium-9.2 Phos-3.2 Mg-1.9
___ 08:15AM BLOOD WBC-8.3 RBC-3.55* Hgb-11.6 Hct-33.8* 
MCV-95 MCH-32.7* MCHC-34.3 RDW-12.3 RDWSD-42.9 Plt ___
___ 08:15AM BLOOD Glucose-83 UreaN-9 Creat-0.7 Na-138 K-4.1 
Cl-103 HCO3-23 AnGap-12

STUDIES:
==========
UTERINE ___ Study Date of ___ 7:48 AM 
Final Report 
INDICATION:  ___ female with menometrorrhagia and severe 
perimenstrual symptoms and uterine fibroid// UAE 
  
COMPARISON:  MRI from ___ 
  
TECHNIQUE:   OPERATORS: Dr. ___ Interventional 
___ and Dr. ___, Interventional 
Radiology fellow performed the 
procedure. Dr. ___ supervised the trainee during 
any key 
components of the procedure where applicable and reviewed and 
agrees with the findings as reported below. 
ANESTHESIA: Moderate sedation was provided by administrating 
divided doses of 300mcg of fentanyl and 3 mg of midazolam 
throughout the total intra-service time of 125 minutes during 
which the patient's hemodynamic parameters were continuously 
monitored by an independent trained radiology nurse. 1% 
lidocaine was injected in the skin and subcutaneous tissues 
overlying the access site. 
MEDICATIONS: 
CONTRAST:  ml of Optiray contrast 
FLUOROSCOPY TIME AND DOSE:  43 minutes, 609 mGy 
  
  
PROCEDURE: 
1. Right common femoral artery access. 
2. Left uterine arteriogram. 
3. Left uterine artery ovarian branch embolization. 
4. 1 vials of 500-700 micron particle embolization of the left 
uterine artery 
to near stasis. 
5. Right uterine arteriogram. 
6. Right uterine artery ovarian branch embolization. 
7. 1 vials of 500-700 micron particle embolization of the right 
uterine artery to near stasis. 
8. Aortogram extending to the superficial femoral arteries. 
PROCEDURE DETAILS: 
Following a discussion of the risks, benefits and alternatives 
to the 
procedure, written informed consent was obtained from the 
patient. The patient was then brought to the angiography suite 
and placed supine on the exam table. A pre-procedure time-out 
was performed per ___ protocol.  Right groin was prepped and 
draped in the usual sterile fashion. 
Using palpatory and fluoroscopic guidance, the right common 
femoral artery was punctured using a 19 gauge single wall needle 
at the level of the mid femoral head. A ___ wire was 
advanced easily under fluoroscopy into the aorta. A small skin 
incision was made over the needle and the needle was exchanged 
for a 5 ___ sheath which was attached to a continuous 
heparinized saline side arm flush. 
  
An Omni flush catheter was advanced over the wire and the 
___ wire was 
exchanged for a Glidewire. The Glidewire was used to select the 
left external iliac artery and the Omniflush catheter was 
exchanged for a pudendal catheter. The pudendal catheter was 
used to cannulate the left uterine artery. A left uterine 
arteriogram was performed which showed a prominent ovarian 
arterial branch.  Using the arteriogram as a road map a 
pre-loaded high-flow Renegade catheter and Transcend wire was 
advanced into the ovarian branch of the uterine artery.  A 2 cm 
x 2 mm Hilal coil was deployed within the proximal ovarian 
arterial branch.  Post embolization contrast injection 
demonstrated occlusion of flow from the uterine artery into the 
ovarian artery.  The pudendal catheter was withdrawn slightly to 
improve flow.  1 vial of 500-700 micron embospheres was injected 
to near stasis. 
  
The micro catheter was then removed and the pudendal catheter 
was used to 
engage the right uterine artery. A right uterine arteriogram was 
performed 
also demonstrating a prominent ovarian arterial branch.  The 
pre-loaded 
Renegade High-Flow catheter and Transcend wire were advanced  
into the ovarian branch arising from the right uterine artery.  
A 2 cm x 2 mm Hilal coil was deployed within the proximal 
ovarian arterial branch.  Post embolization contrast injection 
demonstrated vessel occlusion.  The pudendal catheter was 
withdrawn slightly to improve flow. 1 vial of 500-700 micron 
embospheres was injected to near stasis. The micro catheter was 
then removed. A ___ wire was introduced and the pudendal 
catheter was exchanged over the wire for an Omni flush catheter. 

  
An aortogram was performed just below the level of the renal 
arteries to 
evaluate the ovarian arteries. The ___ wire was used to 
remove the Omni flush catheter. 
  
The catheter was then removed over the wire and the sheath was 
removed. Manual pressure was held until hemostasis was achieved. 
 Sterile dressings were applied. 
  
The patient tolerated the procedure well and there were no 
immediate 
post-procedure complications. 
  
FINDINGS:   
1. Left uterine artery supplying a large fibroid.  An ovarian 
branch arising from the uterine artery was identified and 
subsequently coil embolized.  No arteriovenous shunting, 
stenosis, vesical, or vaginal branches noted. 
2. Right uterine artery supplying a large fibroid.  An ovarian 
branch was 
identified arising from the uterine artery and subsequently 
coild embolized.  No arteriovenous shunting, stenosis, vesical, 
or vaginal branches noted. 
3. No evidence of ovarian arterial supply to the fibroidson the 
final 
aortogram. 
4. Post-procedure fibroid staining and near stasis confirming 
successful 
imaging end point. 
  
IMPRESSION:  
Right common femoral artery access bilateral uterine artery 
particle 
embolization to near stasis. 
  
RECOMMENDATION(S):  Follow up MRI in 3 months. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of 
menometrorrhagia, severe worsening premenstrual symptoms and 
uterine fibroids who presented on ___ for uterine artery 
embolization. She underwent uterine artery embolization with 
moderate sedation via right common femoral artery approach 
without any complications. However, she had significant 
postprocedure pain and was started on a Dilaudid PCA 0.24mg q6 
minutes PRN with no basal rate and max dosing 2.4mg/hr. given 
her significant pain she was admitted overnight to the hospital 
for monitoring. In the morning the Dilaudid PCA was stopped at 
6AM and she had significant improvement in her pain. She was 
subsequently discharged on naproxen 220-440mg BID and ___ mg 
oxycodone as needed for breakthrough pain. Her home medications 
were otherwise continued while she was inpatient except for her 
oral contraceptive. We recommended that she continue this 
medication at home for bleeding until she sees her primary care 
doctor. Vaginal bleeding that should improve and to not lift 
anything >3 lbs for the next ___ days. 

TRANSITIONAL ISSUES
======================
[] Please discuss necessity of continuing oral contraceptives 
after uterine artery embolization.
[] Patient discharged on naproxen OTC 2 tablets ___ daily for 
___ days to be taken with food and oxycodone 5 mg, 8 tablets for 
breakthrough pain.
#CODE: full code
#CONTACT: ___, partner, ___

Attending Addendum: 
I have seen and examined the patient on the day of discharge and 
agree with the note by the medical resident.  
-___, ___ 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 30 mg PO DAILY 
2. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
3. levonorgestrel-ethinyl estrad 0.15-0.03 mg oral DAILY 
4. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Naproxen 220 mg PO Q12H:PRN Pain - Mild 
___ tablets twice daily as needed for pain  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe Duration: 3 Days 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4H PRN Disp #*8 
Tablet Refills:*0 
3.  Cetirizine 10 mg PO DAILY  
4.  Citalopram 30 mg PO DAILY  
5.  ClonazePAM 0.5 mg PO DAILY:PRN anxiety  
6.  levonorgestrel-ethinyl estrad 0.15-0.03 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine fibroids
Menorrhagia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at ___ 
___.

WHY YOU WERE ADMITTED:
You were admitted after your uterine embolization procedure for 
monitoring and pain control. 

WHAT HAPPENED WHILE YOU WERE HERE:
We gave you pain medications and monitored your vital signs 
overnight. 

WHAT YOU SHOULD DO WHEN YOU LEAVE:
- Follow up with interventional radiology at your scheduled 
appointment. 
- You have been provided with a prescription for oxycodone 5mg 
to be taken as needed for pain. Make sure to use a stool softner 
like docusate or a laxative like senna, bisacodyl, or miralax if 
you become constipated from the pain medication.
- Please take Aleve as needed for pain and continue your birth 
control medication until you see your primary care doctor. 

We wish you the best, 

Sincerely, 
Your ___ Care Team. 
 
Followup Instructions:
___